Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
MS flare
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ is a ___ G1P0 at ___ presents with facial
numbness and visual symptoms concerning for MS flare. Reports
difficulty typing and numbness on right side, and has since
resolved. She was evaluated in the ED by neurology and had
MRI/MRA/MRV, which showed no acute intracranial process and
equivocal lesion that was present in scan in ___. Neurology
plans to see patient again in the AM and recommended the patient
to be observed overnight. Patient was transferred to L&D. 

Pt denies LOF, ctx, VB and reports positive FM

She has no other complaints.

PNC:
*) Dating: EDC: ___ by LMP
*) Labs:  ___ pos/Ab neg/RPR NR/R I/HIV neg/HbsAg neg/GBS unk
*) Routine:
- LR ERA
- GLT: wnl
- U/S: nl full fetal survey
- Genetics
*) Issues
- IVF pregnancy: c/b OHSS
- MS: d/c'd meds during conception
 
Past Medical History:
POBHx:
 G1 current 

PGynHx: Denies STD's. Has had nl pap smears. No history of
fibroids.

PMH: 
- MS: diagnosed ___, MRI lesions, stopped gilenya ___ year ago
- anxiety: stopped Lexapro ___ year ago

PSH: breast reduction, lsc ccy, appy

 
Social History:
___
Family History:
Non-contributory 
 
Physical Exam:
On discharge: 
VSS
Gen: NAD, comfortable
CV: RRR
Resp: CTAB
Abd: soft, gravid, non-tender
Ext: non-tender
 
Pertinent Results:
___ 03:47PM URINE  HOURS-RANDOM CREAT-69
___ 02:30AM URINE  HOURS-RANDOM
___ 02:30AM URINE  HOURS-RANDOM
___ 02:30AM URINE  GR HOLD-HOLD
___ 02:30AM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG mthdone-NEG
___ 02:30AM URINE  COLOR-Yellow APPEAR-Hazy SP ___
___ 02:30AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR 
GLUCOSE-70 KETONE-40 BILIRUBIN-NEG UROBILNGN-NEG PH-5.5 LEUK-LG
___ 02:30AM URINE  RBC-1 WBC-16* BACTERIA-MOD YEAST-NONE 
EPI-6
___ 02:30AM URINE  MUCOUS-RARE
___ 08:10PM   GLUCOSE-78 UREA N-8 CREAT-0.6 SODIUM-137 
POTASSIUM-3.7 CHLORIDE-104 TOTAL CO2-20* ANION GAP-17
___ 08:10PM   ALT(SGPT)-12 AST(SGOT)-11 ALK PHOS-97 TOT 
BILI-0.4
___ 08:10PM   estGFR-Using this
___ 08:10PM   ALBUMIN-3.8 CALCIUM-9.6 PHOSPHATE-4.4 
MAGNESIUM-1.9
___ 08:10PM   ASA-NEG ACETMNPHN-NEG bnzodzpn-NEG 
barbitrt-NEG tricyclic-NEG
___ 08:10PM   WBC-11.8* RBC-4.20 HGB-13.7 HCT-38.8 MCV-92 
MCH-32.6* MCHC-35.3 RDW-13.0 RDWSD-43.1
___ 08:10PM   NEUTS-67.9 ___ MONOS-10.4 EOS-1.2 
BASOS-0.3 IM ___ AbsNeut-7.99* AbsLymp-2.30 AbsMono-1.22* 
AbsEos-0.14 AbsBaso-0.03
___ 08:10PM   PLT COUNT-244
 
Brief Hospital Course:
On ___, Ms. ___ was admitted to the antepartum service for 
visual symptoms concerning for MS flare. Prior to her admission 
she had an MRI, MRA, and MRV done in the ED that was negative 
with no evidence of a stroke. Neurology was consulted and felt 
her symptoms were likely due to a complex migraine. Her symptoms 
improved and neurology felt it was safe for her to be discharged 
with outpatient follow-up. On ___, she was discharged home 
in stable condition with appropriate follow-up scheduled. 
 
Medications on Admission:
PNV
 
Discharge Medications:
1. Prenatal Vitamins 1 TAB PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
pregnancy at 33w3d
migraine headache

 
Discharge Condition:
stable

 
Discharge Instructions:
You were admitted for further evaluation of a possible MS flare. 
Your head MRI was stable. Neurology felt that your symptoms were 
possibly due to a migraine headache and felt it was safe for you 
to be discharged.

Fetal testing was reassuring while you were here.
 
Followup Instructions:
___